data/mechanisms/records/IMS8-EQ8.43a.json
{"mechanism_id": "IMS8-EQ8.43a", "species": [{"species_id": "ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][O+:3][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH3:1][CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methoxy_radical", "mapped_smiles": "[CH3:4][O:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_cation", "methoxy_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 173, "equation": "8.43", "figure": null, "panel": null, "section": "8.8 Charge-site reactions (one bond cleaved without rearrangement)"}, "confidence": 0.7, "curator_note": "GENERIC SCHEME, upper (saturated) form of eq 8.43. The book prints the odd-electron ion (OE+.) as the abstract fragment pair AB-CD with the charge+radical (+.) drawn on the CD group and a reaction arrow labelled 'i' (inductive / charge-site cleavage) to AB+ + .CD; no atoms, m/z or intensities are given. Instantiation chosen by the curator: the n-ionized ethyl methyl ether radical cation CH3CH2-O(+.)-CH3, whose O carries the localized charge and odd electron (map 3 = C-of-scheme = O; map 4 = D = methyl; AB = ethyl, maps 1-2). Inductive cleavage: the CH2-O sigma bond (bond 2-3) breaks heterolytically, both electrons migrating to the charge site as a new lone pair on O, giving the ethyl cation CH3CH2+ (AB+) and the neutral methoxy radical .O-CH3 (.CD, odd electron a spectator that stays on O throughout). ARC COUNT: the book draws 1 arc (a single full/double-barbed curved arrow from the AB-C sigma bond to the +. charge site); move <1> IS that drawn arc (one 2-electron charge-controlled move). No implicit homolysis hook is needed here because the sigma pair lands as a lone pair on the heteroatom and the radical does not participate."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 60.057, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ab_cation", "species_id": "ethyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 29.0386, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
